US08217180B2
Step A: Preparation of 1-(3-bromo-4-fluorophenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-3-hydroxy-1-butanone
Lithium diisopropylamide (Aldrich Chemical Company, 2M in tetrahydrofuran/ethylbenzene 10.18 mL, 20.36 mmol) was added to tetrahydrofuran (8 mL) at −78° C. A solution of 1-(3-bromo-4-fluorophenyl)ethanone (4.01 g, 18.47 mmol) in tetrahydrofuran (8 mL) was added dropwise to the mixture. When the addition was complete the mixture was stirred at −78° C. for 30 min. Then a solution of 1-(3,5-dichlorophenyl)-2,2,2-trifluoroethanone (4.50 g, 18.52 mmol) in tetrahydrofuran (8 mL) was added dropwise to the mixture so the temperature of the reaction mixture did not exceed −60° C. After the addition was complete the mixture was stirred at −78° C. for 60 min. The mixture was allowed to warm to 0° C. and then poured into 1N hydrochloric acid (100 mL). The mixture was extracted with ethyl acetate (2×100 mL), and the combined extracts were dried and evaporated. Chromatography of the residue on silica gel (eluted with 1:4 ethyl acetate/hexanes) gave the title product as a white solid (3.32 g, 39% yield) melting at 134-135° C. (after crystallization from ethyl acetate/hexanes).

reactant | Lithium diisopropylamide | 20.36 mmol, 2M, 10.18 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(3-bromo-4-fluorophenyl)ethanone | 18.47 mmol, 4.01 g | BrC=1C=C(C=CC1F)C(C)=O | C8H6BrFO
reactant | 1-(3,5-dichlorophenyl)-2,2,2-trifluoroethanone | 18.52 mmol, 4.50 g | ClC=1C=C(C=C(C1)Cl)C(C(F)(F)F)=O | C8H3Cl2F3O
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 1-(3-bromo-4-fluorophenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-3-hydroxy-1-butanone | 3.32 g, 39% yield | BrC=1C=C(C=CC1F)C(CC(C(F)(F)F)(O)C1=CC(=CC(=C1)Cl)Cl)=O | C16H9BrCl2F4O2
